US07470680B2
tert-butyl 4-(2-(3-nitropyridin-2-yl)ethylamino)piperidine-1-carboxylate.
To an oven dried 10 mL of a vial, was added 3-nitro-2-vinylpyridine (0.300 g, 2 mmol), 4-amino-1-Boc-piperidine (0.601 g, 3.00 mmol), and ethanol (5 ml). Triethylamine (0.843 ml, 6.00 mmol) was added and the vial was capped and heated at 90° C. for 24 hours. Solvents were removed from the mixture by roto-vap. Silica gel chromatography eluting 2M ammonia in methanol-dichloromethane afforded the title compound in 74% yield. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 8.73 (dd, J=4.58, 1.53 Hz, 1 H) 8.19 (dd, J=8.24, 1.22 Hz, 1 H) 7.33 (dd, J=8.24, 4.58 Hz, 1 H) 3.95 (bs, 2 H) 3.30 (t, J=6.87 Hz, 2 H) 3.10 (t, J=6.71 Hz, 2 H) 2.78 (t, J=11.60 Hz, 2 H) 2.56-2.69 (m, 1 H) 1.76-1.84 (m, 2 H) 1.42 (s, 9 H) 1.13-1.27 (m, 2 H).

reactant | 3-nitro-2-vinylpyridine | 2 mmol, 0.300 g | [N+](=O)([O-])C=1C(=NC=CC1)C=C | C7H6N2O2
reactant | 4-amino-1-Boc-piperidine | 3.00 mmol, 0.601 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Triethylamine | 6.00 mmol, 0.843 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | tert-butyl 4-(2-(3-nitropyridin-2-yl)ethylamino)piperidine-1-carboxylate | 74% yield | [N+](=O)([O-])C=1C(=NC=CC1)CCNC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N4O4
